### ISSUE TITLE
Hackmath 3 and Brualdi 9.13 misformalized

### ISSUE THREAD

**Issue by phillipharr1s** [MoonshotAI/CombiBench#7]
Hello,

hackmath_3 is unprovable. Setting `sols = ∅` is a counterexample. You probably want an iff in the condition `h_sols` similar to hackmath_1 and hackmath_2.

Phillip

**Comment by phillipharr1s** [comment]
I believe brualdi_ch9_13 also has a problem, but it's harder to for me to figure out. here's the proof of its negation

```
theorem brualdi_ch9_13_negated : ∃ (n m : ℕ) (k : ℕ+) (A : Matrix (Fin m) (Fin n) ℕ) (hA : ∀ i j, A i j ∈ Finset.Icc 1 k.1), ∀ (rσ : Fin m → Equiv.Perm (Fin n)), ∃ j : Fin n, ∃ i ∈ Set.Icc 1 k.1, (∑ x : Fin m, if A x ((rσ x).symm j) = x then 1 else 0) * n ≠ (∑ x : Fin m, ∑ y : Fin n, if A x y = i then 1 else 0) := by 
  use 2, 1, ⟨2, by decide⟩
  use fun i j => if i = 0 ∧ j = 0 then 1 else 1
  use fun i j => by simp
  intro rσ
  use 0
  use 1
  constructor <;> simp
  <;> aesop
```

**Comment by ahhwuhu** [comment]
Thanks a lot! We will fix it!
